US08580783B2
To a stirred mixture of commercially available (R)-tert-butoxycarbonylamino-phenyl-acetic acid (1.00 g, 3.98 mmol), dimethyl-pyridin-4-yl-amine (0.49 g, 3.98 mmol) and N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide (0.84 g, 4.38 mmol) in anhydrous dichloromethane (30 mL), a solution of 2-aminobenzoic acid (0.55 g, 3.98 mmol) and triethylamine (0.56 mL, 4.38 mmol) in anhydrous dichloromethane (6 mL) was added drop wise at 0-5° C. The reaction was stirred at room temperature for 4 h, then the resulting solution was washed with 1N HCl solution, water and brine After drying over Na2SO4, the solvent was removed to give the intermediate 2-((R)-2-tert-butoxycarbonylamino-2-phenyl-acetylamino)-benzoic acid. To a solution of this intermediate in dry dichloromethane (20 mL), dimethyl-pyridin-4-yl-amine (0.19 g, 1.59 mmol) and N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide (0.84 g, 4.38 mmol) were added. The mixture was stirred at room temperature for 2 h, then washed with 1N HCl solution, then with water and brine, dried over Na2SO4 and evaporated to dryiness. The intermediate [(R)-(4-oxo-4H-benzo[d][1,3]oxazin-2-yl)-phenyl-methyl]-carbamic acid tert-butyl ester was dissolved in dry pyridine (5 mL) and aminoguanidine hydrogencarbonate (0.60 g, 4.38 mmol) was added. The mixture was heated under microwave condition at 180° C. for 30 minutes, the solvent was then evaporated and the crude purified by flash column chromatography on silica gel eluting with DCM/CH3OH 96/4, to afford title compound (0.16 g, 10% yield).

reactant | (R)-tert-butoxycarbonylamino-phenyl-acetic acid | 3.98 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide | 4.38 mmol, 0.84 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 2-aminobenzoic acid | 3.98 mmol, 0.55 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | triethylamine | 4.38 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
catalyst | dimethyl-pyridin-4-yl-amine | 3.98 mmol, 0.49 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 2-((R)-2-tert-butoxycarbonylamino-2-phenyl-acetylamino)-benzoic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1 | C20H22N2O5
